US06743793B2
2-Methylindol-4-yloxyacetic Acid Allyl Ester
To a solution of 2-methylindol-4-yloxyacetic acid (2 g) in N,N-dimethylformamide (20 ml) was added anhydrous potassium carbonate (2.02 g) and allyl bromide (1.27 ml), and the mixture was stirred at 80° C. for 2 hours. To the reaction mixture was added water and ethyl acetate, then separated. The aqueous layer was extracted with ethyl acetate. The combined organic layer was washed with water and a saturated aqueous solution of sodium chloride, successively, dried and concentrated under reduced pressure. The residue was purified by column chromatography on silica gel (n-hexane—ethyl acetate) to give the title compound (1.88 g) having the following physical data.

reactant | 2-methylindol-4-yloxyacetic acid | 2 g | CC(C(=O)O)OC1=C2C=CNC2=CC=C1 | C11H11NO3
reactant | potassium carbonate | 2.02 g | C([O-])([O-])=O.[K+].[K+]
reactant | allyl bromide | 1.27 ml | C(C=C)Br | C3H5Br
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-Methylindol-4-yloxyacetic Acid Allyl Ester | 1.88 g | C(C=C)OC(C(C)OC1=C2C=CNC2=CC=C1)=O | C14H15NO3
